US08445530B2
3-(2-Bromo-acetyl)-4-methoxy-benzoic acid methyl ester
3-Acetyl-4-methoxy-benzoic acid methyl ester (T. Nagano et al., J. Am. Chem. Soc. 75 (1953), 6237-6238) (1.25 g) was dissolved in a mixture of acetic acid (7 ml) and hydrobromic acid (3 ml), the solution was cooled in an ice bath, and bromine (0.961 g) added. The mixture was allowed to slowly warm to room temperature and react for 2 h. Then the mixture was evaporated to dryness in vacuo, the residue was partitioned between EA and a saturated aqueous sodium hydrogencarbonate solution, the aqueous phase extracted with EA, and the combined organic extracts were dried over sodium sulfate, filtered and evaporated to dryness. Upon stirring with a mixture of EA and HEP, part of the title compound crystallized and was filtered off. The filtrate was evaporated to dryness and the residue purified by preparative RP HPLC (water/ACN gradient). Altogether, 1.18 g of the title compound were obtained.

reactant | 3-Acetyl-4-methoxy-benzoic acid methyl ester | 1.25 g | COC(C1=CC(=C(C=C1)OC)C(C)=O)=O | C11H12O4
reactant | bromine | 0.961 g | BrBr | Br2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 3 ml | Br | BrH
product | 3-(2-Bromo-acetyl)-4-methoxy-benzoic acid methyl ester | 1.18 g | COC(C1=CC(=C(C=C1)OC)C(CBr)=O)=O | C11H11BrO4
